US06617346B1
To a reaction mixture of 3-formyl-5-methoxymethyl-benzonitrile (128 mg, 0.73 mmol) in tert-butyl alcohol (3 mL) and water (1.5 mL) were added 2-methyl-2-butene (1.5 mL) and sodium chlorite (198 mg, 80% technical grade, dissolved in 1.5 mL of water), respectively. The resulting mixture was stirred at room temperature for 5 h then partitioned between water and methylene chloride. The aqueous layer was extracted with methylene chloride. The organic layers were dried over anhydrous sodium sulfate and concentrated in vacuo to dryness to afford 3-cyano-5-methoxymethyl-benzoic acid (90 mg, 64%).

reactant | 3-formyl-5-methoxymethyl-benzonitrile | 0.73 mmol, 128 mg | C(=O)C=1C=C(C#N)C=C(C1)COC | C10H9NO2
reactant | 2-methyl-2-butene | 1.5 mL | CC(C)=CC | C5H10
reactant | sodium chlorite | 1.5 mL, 198 mg | Cl(=O)[O-].[Na+]
solvent | tert-butyl alcohol | 3 mL | C(C)(C)(C)O | C4H10O
solvent | water | 1.5 mL | O | H2O
product | 3-cyano-5-methoxymethyl-benzoic acid | 90 mg, 64% | C(#N)C=1C=C(C(=O)O)C=C(C1)COC | C10H9NO3
